US06908913B2
(1S,5R,6S)-6-((1R)-1-Hydroxyethyl)-1-methyl-2-[7-[1-(2-sulfamoylaminoethyl)pyridinium-3-yl]carbonylimidazo[5,1-b]thiazol-2-yl]-1-carbapen-2-em-3-carboxylate (intramolecular salt) (Compound No. 148)
The title compound (101 mg) was prepared in the same manner as in steps a) and b) of Example 4, except that 572 mg of 2-(4-nitrobenzyloxycarbonylaminosulfonyl)aminoethanol was used instead of 3-azido-1-propanol in step a) of Example 4 and 585 mg of 4-nitrobenzyl (1S,5R,6S)-6-((1R)-1-hydroxyethyl)-1-methyl-2-[7-(pyridin-3-yl)carbonylimidazo[5,1-b]thiazol-2-yl]-1-carbapen-2-em-3-carboxylate was used as the starting compound.

reactant | 2-(4-nitrobenzyloxycarbonylaminosulfonyl)aminoethanol | 572 mg | [N+](=O)([O-])C1=CC=C(COC(=O)NS(=O)(=O)NCCO)C=C1 | C10H13N3O7S
reactant | 4-nitrobenzyl (1S,5R,6S)-6-((1R)-1-hydroxyethyl)-1-methyl-2-[7-(pyridin-3-yl)carbonylimidazo[5,1-b]thiazol-2-yl]-1-carbapen-2-em-3-carboxylate | 585 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)C2=CN3C(S2)=C(N=C3)C(=O)C=3C=NC=CC3)C(=O)OCC3=CC=C(C=C3)[N+](=O)[O-])C1=O | C28H23N5O7S
product | (1S,5R,6S)-6-((1R)-1-Hydroxyethyl)-1-methyl-2-[7-[1-(2-sulfamoylaminoethyl)pyridinium-3-yl]carbonylimidazo[5,1-b]thiazol-2-yl]-1-carbapen-2-em-3-carboxylate | 101 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)C2=CN3C(S2)=C(N=C3)C(=O)C=3C=[N+](C=CC3)CCNS(N)(=O)=O)C(=O)[O-])C1=O | C23H24N6O7S2
